US05455274
A stirred solution of 4-hydroxy-3-methoxy-N,N-bis(1-methylethyl)benzamide (1.0 g, 4.0 mmol) in 50 mL of N,N-dimethylformamide is treated with 60% sodium hydride (160 mg, 4.0 mmol). After stirring at 0° C. for 10 minutes, the reaction is treated with 4-(4-cyanophenoxy)butyl chloride (835 mg, 4.0 mmol) and stirred at 60° C. for 4 days. The reaction is partitioned between diethyl ether and water. The organic layer is washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The resulting material is purified by chromatography on silica gel (30 g) with 60 % ethyl acetate/hexane as the eluent to afford 4-[4-(4-cyanophenoxy)butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide as an oil.

reactant | 4-hydroxy-3-methoxy-N,N-bis(1-methylethyl)benzamide | 4.0 mmol, 1.0 g | OC1=C(C=C(C(=O)N(C(C)C)C(C)C)C=C1)OC | C14H21NO3
reactant | sodium hydride | 4.0 mmol, 160 mg | [H-].[Na+]
reactant | 4-(4-cyanophenoxy)butyl chloride | 4.0 mmol, 835 mg | C(#N)C1=CC=C(OCCCCCl)C=C1 | C11H12ClNO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-[4-(4-cyanophenoxy)butoxy]-3-methoxy-N,N-bis(1-methylethyl)benzamide | C(#N)C1=CC=C(OCCCCOC2=C(C=C(C(=O)N(C(C)C)C(C)C)C=C2)OC)C=C1 | C25H32N2O4
